US07439370B2
a) 2-bromo-3-(but-2-ynyl)-3,5-dihydro-imidazo[4,5-d]pyridazin-4-one (VII)
6.31 ml (0.126 mol) hydrazine hydrate were added drop-wise at ambient temperature to a solution of 35.0 g (0.117 mol) ethyl 2-bromo-3-(but-2-ynyl)-5-formyl-3H-imidazole-4-carboxylate in 400 ml of ethanol. After 30 min stirring 27 ml (0.472 mol) concentrated acetic acid were added and the solution was then stirred for 1 h at 100° C. After cooling the precipitated solid was suction filtered, washed with ethanol and diethyl ether and dried. The solid was further purified by re-crystallization from EtOH.

reactant | hydrazine hydrate | 0.126 mol, 6.31 ml | O.NN
reactant | ethyl 2-bromo-3-(but-2-ynyl)-5-formyl-3H-imidazole-4-carboxylate | 0.117 mol, 35.0 g | BrC1=NC(=C(N1CC#CC)C(=O)OCC)C=O | C11H11BrN2O3
reactant | acetic acid | 0.472 mol, 27 ml | C(C)(=O)O | C2H4O2
solvent | ethanol | 400 ml | C(C)O | C2H6O
product | 2-bromo-3-(but-2-ynyl)-3,5-dihydro-imidazo[4,5-d]pyridazin-4-one | BrC=1N(C2=C(C=NNC2=O)N1)CC#CC | C9H7BrN4O
